US06627644B2
To a −78° C. solution of 2,2,2-trifluoro-N-(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-N-propyl-acetamide (3.4 g, 10.9 mmol) and tetrabutylammonium iodide (4.43 g, 12.0 mmol) in dichloromethane (200 mL) under an inert atmosphere boron trichloride (1 M, 27.2 mL) was added dropwise. The reaction was warmed to room temperature and stirred for 2.5 h. The reaction was quenched by the slow addition of water. The organic layer was separated and dried (MgSO4). This was concentrated onto silica (15 g) and placed on top of a flash column. Chromatography eluting with 30% acetone in hexanes afforded 2,2,2-trifluoro-N-(7-hydroxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-N-propyl-acetamide as a foam (3.1 g).

reactant | 2,2,2-trifluoro-N-(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-N-propyl-acetamide | 10.9 mmol, 3.4 g | FC(C(=O)N(CCC)C1CC2=CC(=CC=C2CC1)OC)(F)F | C16H20F3NO2
reactant | boron trichloride | 1 M, 27.2 mL | B(Cl)(Cl)Cl | BCl3
catalyst | tetrabutylammonium iodide | 12.0 mmol, 4.43 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2,2,2-trifluoro-N-(7-hydroxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-N-propyl-acetamide | 3.1 g | FC(C(=O)N(CCC)C1CC2=CC(=CC=C2CC1)O)(F)F | C15H18F3NO2
